US04428955
A mixture of 4.9 g. (0.02 mol) 4-(2-acetoxybenzamido)-piperidine, 5.6 g. (0.02 mol) 7-(3-bromopropoxy)-2-methyl-4H-1-benzopyran-4-one, 13.9 ml. (0.10 mol) triethylamine and 100 ml. tetrahydrofuran is heated under reflux for 10 hours and then evaporated. The 7-{3-[4-(2-acetoxybenzamido)-piperidino]-propoxy}-2-methyl-4H-1-benzopyran-4-one obtained as a crude product is mixed with 100 ml. 1 N aqueous sodium hydroxide solution, stirred for 1 hour, filtered, washed with ethyl acetate and the aqueous phase then neutralised. The precipitate obtained is taken up in acetone, mixed with excess ethereal hydrochloric acid and the dihydrochloride of the desired end product isolated; m.p. 169°-170° C. The yield is 4.6 g. (45% of theory).

reactant | 4-(2-acetoxybenzamido)-piperidine | 0.02 mol | C(C)(=O)OC1=C(C(=O)NC2CCNCC2)C=CC=C1 | C14H18N2O3
reactant | 7-(3-bromopropoxy)-2-methyl-4H-1-benzopyran-4-one | 0.02 mol | BrCCCOC1=CC2=C(C(C=C(O2)C)=O)C=C1 | C13H13BrO3
reactant | triethylamine | 0.10 mol | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 7-{3-[4-(2-acetoxybenzamido)-piperidino]-propoxy}-2-methyl-4H-1-benzopyran-4-one | C(C)(=O)OC1=C(C(=O)NC2CCN(CC2)CCCOC2=CC3=C(C(C=C(O3)C)=O)C=C2)C=CC=C1 | C27H30N2O6
